US04975439
A mixture of 2.1 parts of cis-4-amino-5-chloro-N-[1-[4-(1,4-dioxa-8-azaspiro[4.5]dec-8-yl)-4-oxobutyl]-3-methoxy-4-piperidinyl]-2-methoxybenzamide, 0.74 parts of sulfuric acid and 40 parts of water was stirred for 2 hours at reflux temperature. After cooling, the reaction mixture was made alkaline with sodium carbonate while cooling. The product was extracted with trichloromethane. The extract was washed with water, dried, filtered and evaporated. The residue was crystallized from acetonitrile. The product was filtered off and dried in vacuo at 60° C., yielding 1 part (51.9%) of cis-4-amino-5-chloro-2-methoxy-N-[3-methoxy-1-[4-oxo-4-(4-oxo-1-piperidinyl)butyl]-4-piperidinyl]benzamide; mp. 156.9° C. (compound 109).

reactant | cis-4-amino-5-chloro-N-[1-[4-(1,4-dioxa-8-azaspiro[4.5]dec-8-yl)-4-oxobutyl]-3-methoxy-4-piperidinyl]-2-methoxybenzamide | NC1=CC(=C(C(=O)N[C@@H]2[C@@H](CN(CC2)CCCC(=O)N2CCC3(OCCO3)CC2)OC)C=C1Cl)OC | C25H37ClN4O6
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
product | cis-4-amino-5-chloro-2-methoxy-N-[3-methoxy-1-[4-oxo-4-(4-oxo-1-piperidinyl)butyl]-4-piperidinyl]benzamide | 51.9% | NC1=CC(=C(C(=O)N[C@@H]2[C@@H](CN(CC2)CCCC(N2CCC(CC2)=O)=O)OC)C=C1Cl)OC | C23H33ClN4O5
